US08293768B2
Synthesis of 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylic acid
A mixture of ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate (4.31 g, 10.5 mmol) and 1 N aqueous sodium hydroxide solution (60 mL, 60 mmol) in ethanol (120 mL) was stirred at reflux for 1.5 h, then cooled to 0° C. and acidified with 10% aqueous hydrochloric acid to pH ˜2. The white precipitate was filtered, washed with water and ethanol, and then dried in vacuo to afford the title compound as a colorless solid in 91% yield (3.68 g): 1H NMR (300 MHz, DMSO-d6) δ 12.37 (br s, 1H), 7.74 (d, J=8.1 Hz, 2H), 7.53 (d, J=8.1 Hz, 2H), 6.30 (s, 1H), 4.50 (s, 2H), 3.90-3.81 (m, 2H), 3.52-3.44 (m, 2H), 2.40 (s, 3H); MS (ES+) m/z 385.2 (M+1).

reactant | ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate | 10.5 mmol, 4.31 g | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C19H19F3N2O3S
reactant | sodium hydroxide | 60 mmol, 1 N, 60 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | 91% yield | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)O | C17H15F3N2O3S
